US04199518
Barton et al, J.A.C.S. 95:8, 2748 (1973) describe reduction of 1α,2α-epoxycholesta-4,6-dien-3-one with large excesses of each of lithium metal and ammonium chloride in ammonia/tetrahydrofuran at reflux to obtain 1α,3β-dihydroxycholest-5-ene which is a precursor of 1α-hydroxyvitamin D3.

reactant | 1α,2α-epoxycholesta-4,6-dien-3-one | O1[C@H]2[C@@H]1C(C=C1C=C[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@@]21C)C)=O | C27H40O2
reactant | lithium | [Li] | Li
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ammonia tetrahydrofuran | N.O1CCCC1
product | 1α,3β-dihydroxycholest-5-ene | O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@@]12C)C)O | C27H46O2
